### PR TITLE
feat(OEIS): A038552

### LINKED ISSUE #1459: math.CO/0409509 number 45
### What is the conjecture
The largest squarefree number $k$ such that $Q( `\sqrt{-k}` )$ has class number $n$ is always congruent 19 mod 24. 

See also https://oeis.org/A038552

### Prerequisites needed

Status: open

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by rwst**
Resolves #1459.

# Conjectures associated with A038552

A038552 lists the largest squarefree number $k$ such that the imaginary quadratic field
$\mathbb{Q}(\sqrt{-k})$ has class number $n$.

The conjectures state that:
1. All terms are congruent to $19 \pmod{24}$.
2. This is also the largest absolute value of negative fundamental discriminant $d$ for
   class number $n$. For even $n$, if $k$ is the largest odd number with $h(-k) = n$ and
   $k'$ is the largest even number with $h(-k') = n$, then $k > k'$.

*References:* [oeis.org/A038552](https://oeis.org/A038552)

 Note: I'm using Claude + Opus for supervised formalization tasks. Claude has no permission to use git on my machine.

- [x] depends on: #1813

### CODE REVIEW

File: FormalConjectures/OEIS/38552.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+The conjectures state that:
+1. All terms are congruent to $19 \pmod{24}$.
+2. This is also the largest absolute value of negative fundamental discriminant $d$ for
+   class number $n$. For even $n$, if $k$ is the largest odd number with $h(-k) = n$ and
+   $k'$ is the largest even number with $h(-k') = n$, then $k > k'$.
+
+*References:* [oeis.org/A038552](https://oeis.org/A038552)
+-/
+
+namespace OeisA038552
```
Comment (mo271) [inline FormalConjectures/OEIS/38552.lean]:
```suggestion
namespace OeisA38552
```
let's avoid manually zero-padding in namespace (see also #1671). Here and in the end and in other prs..

Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: I think if you insist on removing zero padding then I'll remove the `A` as well, so not to confuse with the seq id.

Comment (Paul-Lez) [reply FormalConjectures/OEIS/38552.lean]: Our convention in the repo is to keep the `A` so let's stick to that @rwst :)

File: FormalConjectures/OEIS/38552.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+def HasClassNumber (k n : ℕ) : Prop :=
+  ∃ (h : Irreducible (X ^ 2 + C (k : ℚ))),
+  haveI := Fact.mk h
+  NumberField.classNumber (AdjoinRoot (X ^ 2 + C (k : ℚ))) = n
+
+/-- $k$ is the largest squarefree number such that $\mathbb{Q}(\sqrt{-k})$ has class number $n$.
+This defines the $n$-th term of A038552. -/
+def a (n k : ℕ) : Prop :=
+  Squarefree k ∧ HasClassNumber k n ∧
+  ∀ m, Squarefree m → HasClassNumber m n → m ≤ k
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Can you use `MaximalFor` here?

File: FormalConjectures/OEIS/38552.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+
+/-- The class number of the imaginary quadratic field $\mathbb{Q}(\sqrt{-k})$ equals $n$. -/
+def HasClassNumber (k n : ℕ) : Prop :=
+  ∃ (h : Irreducible (X ^ 2 + C (k : ℚ))),
+  haveI := Fact.mk h
+  NumberField.classNumber (AdjoinRoot (X ^ 2 + C (k : ℚ))) = n
+
+/-- $k$ is the largest squarefree number such that $\mathbb{Q}(\sqrt{-k})$ has class number $n$.
+This defines the $n$-th term of A038552. -/
+def a (n k : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: A bit confusing that this is a Prop, rather than a natural number

File: FormalConjectures/OEIS/38552.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+    haveI := Fact.mk h
+    NumberField.classNumber (AdjoinRoot (X ^ 2 - C (d : ℚ)))
+  else 0
+
+/-- $|d|$ is the largest absolute value among negative fundamental discriminants
+with class number $n$. -/
+def IsLargestNegFundDiscForClassNumber {n : ℕ} (absD : ℕ) : Prop :=
+  IsNegFundamentalDiscriminant (-(absD : ℤ)) ∧
+  classNumberOfDiscriminant (-(absD : ℤ)) = n ∧
+  ∀ d : ℤ, IsNegFundamentalDiscriminant d → classNumberOfDiscriminant d = n → d.natAbs ≤ absD
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Same

File: FormalConjectures/OEIS/38552.lean [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+def a (n k : ℕ) : Prop :=
+  Squarefree k ∧ HasClassNumber k n ∧
+  ∀ m, Squarefree m → HasClassNumber m n → m ≤ k
+
+/-- An integer $d < 0$ is a negative fundamental discriminant if either:
+- $d \equiv 1 \pmod 4$ and $d$ is squarefree, or
+- $d = 4m$ where $m \equiv 2$ or $3 \pmod 4$ and $m$ is squarefree. -/
+def IsNegFundamentalDiscriminant (d : ℤ) : Prop :=
+  d < 0 ∧ ((d % 4 = 1 ∧ Squarefree d) ∨
+           (∃ m : ℤ, d = 4 * m ∧ (m % 4 = 2 ∨ m % 4 = 3) ∧ Squarefree m))
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Have you seen #1813 ? We should coordinate

File: FormalConjectures/OEIS/38552.lean [hunk 6]
```diff
@@ -0,0 +1,134 @@
...
+/-- $163$ is the largest squarefree $k$ with class number $1$. -/
+@[category test, AMS 11]
+theorem a_1_163 : a 1 163 := by
+  refine ⟨squarefree_163, hasClassNumber_163_1, ?_⟩
+  intro m hm_sq hm_class
+  have h := starkHeegner_classNumberOne
+  simp only [Set.ext_iff, Set.mem_setOf_eq, Set.mem_insert_iff, Set.mem_singleton_iff] at h
+  have hm_in : m ∈ ({1, 2, 3, 7, 11, 19, 43, 67, 163} : Set ℕ) := (h m).mp ⟨hm_sq, hm_class⟩
+  simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at hm_in
+  rcases hm_in with rfl | rfl | rfl | rfl | rfl | rfl | rfl | rfl | rfl <;> norm_num
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Come on, surely our automation can do better. What about starting with
```suggestion
  simp [a, starkHeegner_classNumberOne, hasClassNumber_163_1]
```
+ maybe using `simp +arith`

File: FormalConjectures/OEIS/38552.lean (hunk 2 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: Have a look. Claude adapted docstring, `def a` and the proof of `theorem a_1_163` to `MaximalFor`.

File: FormalConjectures/OEIS/38552.lean (hunk 3 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: Maybe this is more explicit?

File: FormalConjectures/OEIS/38552.lean (hunk 4 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: Not sure what you mean here.

File: FormalConjectures/OEIS/38552.lean (hunk 6 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: Some improvements applied.

File: FormalConjectures/OEIS/38552.lean (hunk 5 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: I'll wait for this to merge then, since you already add to `ForMathlib`. Thanks.

File: FormalConjectures/OEIS/38552.lean [hunk 7]
```diff
@@ -0,0 +1,132 @@
...
+A038552 lists the largest squarefree number $k$ such that the imaginary quadratic field
+$\mathbb{Q}(\sqrt{-k})$ has class number $n$.
+
+The conjectures state that:
+1. All terms are congruent to $19 \pmod{24}$.
+2. This is also the largest absolute value of negative fundamental discriminant $d$ for
+   class number $n$. For even $n$, if $k$ is the largest odd number with $h(-k) = n$ and
+   $k'$ is the largest even number with $h(-k') = n$, then $k > k'$.
+
+*References:* [oeis.org/A038552](https://oeis.org/A038552)
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/38552.lean]: Could you add a reference for the Stark-Heegner theorem here too?

File: FormalConjectures/OEIS/38552.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/OEIS/38552.lean:56]: @rwst this is now merged

File: FormalConjectures/OEIS/38552.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/OEIS/38552.lean:71]: Perhaps: same as https://github.com/google-deepmind/formal-conjectures/pull/1893#discussion_r2769989201

**Comment by YaelDillies** [comment]
We have now bumped the repo past the mathlib commit required to make progress here.

**Comment by rwst** [comment]
-awaiting-author

File: FormalConjectures/OEIS/38552.lean (hunk 5 above)
Comment (YaelDillies) [reply FormalConjectures/OEIS/38552.lean]: Can you use `IsFundamentalDiscr`?

File: FormalConjectures/OEIS/38552.lean [hunk 8]
```diff
@@ -0,0 +1,128 @@
...
+noncomputable def classNumberOfDiscriminant (d : ℤ) : ℕ :=
+  haveI := Classical.dec (Irreducible (X ^ 2 - C (d : ℚ)))
+  if h : Irreducible (X ^ 2 - C (d : ℚ)) then
+    haveI := Fact.mk h
+    NumberField.classNumber (AdjoinRoot (X ^ 2 - C (d : ℚ)))
+  else 0
+
+/-- $|d|$ is the largest absolute value among negative fundamental discriminants
+with class number $n$. -/
+def IsLargestNegFundDiscForClassNumber {n : ℕ} (absD : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]:
```suggestion
def IsLargestNegFundDiscrForClassNumber {n : ℕ} (absD : ℕ) : Prop :=
```
to avoid confusing with disks

File: FormalConjectures/OEIS/38552.lean [hunk 9]
```diff
@@ -0,0 +1,128 @@
...
+  IsFundamentalDiscr (-(absD : ℤ)) ∧
+  classNumberOfDiscriminant (-(absD : ℤ)) = n ∧
+  ∀ d < (0 : ℤ), IsFundamentalDiscr d → classNumberOfDiscriminant d = n → d.natAbs ≤ absD
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Out of clarity, could you use mathlib's `IsGreatest` here?

File: FormalConjectures/OEIS/38552.lean [hunk 10]
```diff
@@ -58,10 +58,9 @@ noncomputable def classNumberOfDiscriminant (d : ℤ) : ℕ :=
 
 /-- $|d|$ is the largest absolute value among negative fundamental discriminants
 with class number $n$. -/
-def IsLargestNegFundDiscForClassNumber {n : ℕ} (absD : ℕ) : Prop :=
-  IsFundamentalDiscr (-(absD : ℤ)) ∧
-  classNumberOfDiscriminant (-(absD : ℤ)) = n ∧
-  ∀ d < (0 : ℤ), IsFundamentalDiscr d → classNumberOfDiscriminant d = n → d.natAbs ≤ absD
+def IsLargestNegFundDiscrForClassNumber {n : ℕ} (absD : ℕ) : Prop :=
+  IsGreatest {m : ℕ | IsFundamentalDiscr (-(m : ℤ)) ∧ classNumberOfDiscriminant (-(m : ℤ)) = n}
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]:
```suggestion
  IsGreatest {m : ℕ | IsFundamentalDiscr (-m : ℤ) ∧ classNumberOfDiscriminant (-m : ℤ) = n}
```
works, no?

File: FormalConjectures/OEIS/38552.lean [hunk 11]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- $163$ is the largest squarefree $k$ with class number $1$. -/
+@[category test, AMS 11]
+theorem isA038552_1_163 : IsA038552 1 163 := by
+  refine ⟨⟨squarefree_163, hasClassNumber_163_1⟩, ?_⟩
+  intro m ⟨hm_sq, hm_class⟩ (hle : 163 ≤ m)
+  have hm_in : m ∈ ({1, 2, 3, 7, 11, 19, 43, 67, 163} : Set ℕ) :=
+    starkHeegner_classNumberOne ▸ Set.mem_ofPred.mpr ⟨hm_sq, hm_class⟩
+  simp only [Set.mem_insert_iff, Set.mem_singleton_iff, id] at hm_in ⊢
+  omega
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Can you please use `lia` instead of `omega` wherever possible?
```suggestion
  lia
```

**Comment by rwst** [comment]
-awaiting-author

File: FormalConjectures/OEIS/38552.lean [hunk 12]
```diff
@@ -0,0 +1,127 @@
...
+$\mathbb{Q}(\sqrt{-k})$ has class number $1$ are exactly $\{1, 2, 3, 7, 11, 19, 43, 67, 163\}$. -/
+@[category research solved, AMS 11]
+theorem starkHeegner_classNumberOne :
+    {k : ℕ | Squarefree k ∧ HasClassNumber k 1} = {1, 2, 3, 7, 11, 19, 43, 67, 163} := by
+  sorry
+
+/-- $163$ is squarefree. -/
+@[category test, AMS 11]
+theorem squarefree_163 : Squarefree (163 : ℕ) :=
+  (Nat.prime_iff.mp (by norm_num : Nat.Prime 163)).squarefree
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Can you add a lemma `Nat.Prime.squarefree` in the correct ForMathlib file and use it here?

File: FormalConjectures/OEIS/38552.lean [hunk 13]
```diff
@@ -0,0 +1,127 @@
...
+/-- All terms of A038552 are congruent to $19 \pmod{24}$. -/
+@[category research open, AMS 11]
+theorem mod_24_of_isA038552 {n k : ℕ} (h : IsA038552 n k) : k % 24 = 19 := by
+  sorry
+
+/-- A038552 also gives the largest absolute value of negative fundamental discriminant
+for each class number. -/
+@[category research open, AMS 11]
+theorem isA038552_eq_largestNegFundDisc {n k : ℕ} (h : IsA038552 n k) :
+  IsLargestNegFundDiscrForClassNumber (n := n) k := by
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]:
```suggestion
    IsLargestNegFundDiscrForClassNumber (n := n) k := by
```

File: FormalConjectures/OEIS/38552.lean [hunk 14]
```diff
@@ -0,0 +1,127 @@
...
+/-- For even class number $n$, if $k$ is the largest odd squarefree number with
+$h(-k) = n$ and $k'$ is the largest even squarefree number with $h(-k') = n$,
+then $k > k'$. -/
+@[category research open, AMS 11]
+theorem odd_gt_even_for_even_classNumber {n : ℕ} (hn : Even n) (k k' : ℕ)
+    (hk_odd : Odd k) (hk'_even : Even k')
+    (hk_sq : Squarefree k) (hk'_sq : Squarefree k')
+    (hk_class : HasClassNumber k n) (hk'_class : HasClassNumber k' n)
+    (hk_largest : ∀ m, Odd m → Squarefree m → HasClassNumber m n → m ≤ k)
+    (hk'_largest : ∀ m, Even m → Squarefree m → HasClassNumber m n → m ≤ k') :
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Can you also use `IsGreatest` here?

Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean]: Isn't this a convoluted way of saying that the largest number is odd? That new formulation would make it obvious that it's a corollary of the mod 24 conjecture

File: FormalConjectures/OEIS/38552.lean [hunk 15]
```diff
@@ -0,0 +1,127 @@
...
+pp. 907-938.
+-/
+
+/-- All terms of A038552 are congruent to $19 \pmod{24}$. -/
+@[category research open, AMS 11]
+theorem mod_24_of_isA038552 {n k : ℕ} (h : IsA038552 n k) : k % 24 = 19 := by
+  sorry
+
+/-- A038552 also gives the largest absolute value of negative fundamental discriminant
+for each class number. -/
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/38552.lean:116]: I fail to understand the distinction between the largest d such that Q(sqrt(-d)) has class number n and the largest d' such that some quadratic number field of discriminant d' has class number n. Isn't every quadratic number field of discriminant d' isomorphic to Q(sqrt(-d'))?

Comment (rwst) [reply FormalConjectures/OEIS/38552.lean:116]: That was over my head. Opus offered to add an explanation to the docstrings which sounds good. Agree?

File: FormalConjectures/OEIS/38552.lean (hunk 14 above)
Comment (rwst) [reply FormalConjectures/OEIS/38552.lean]: Yes, a weaker version.

**Comment by rwst** [comment]
-awaiting-author

File: FormalConjectures/OEIS/38552.lean (hunk 15 above)
Comment (YaelDillies) [reply FormalConjectures/OEIS/38552.lean:116]: Okay thank you that makes sense

**Review by YaelDillies — APPROVED** [review]
Thank you!
